US09126981B2
Synthesis of N-benzyl-6′-(4-hydroxybenzyl)-8′-(naphthalen-1-ylmethyl)-4′,7′-dioxohexahydrospiro[cyclopropane-1,3′-pyrazino[1,2-a]pyrimidine]-1′(2′H)-carboxamide (Compound I-1)
To (S)-1-((3-benzylureido)methyl)-N-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-yl)cyclopropanecarboxamide (Compound II-1) (188 mg, 0.26 mmol) was added 10%-HCOOH/water (2.0 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (eluent: chloroform:methanol=100:0 to 90:10) to obtain the title compound (47 mg, 29%).

reactant | (S)-1-((3-benzylureido)methyl)-N-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-yl)cyclopropanecarboxamide | 0.26 mmol, 188 mg | C(C1=CC=CC=C1)NC(NCC1(CC1)C(=O)N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C)=O | C43H54N4O6
reactant | HCOOH water | 2.0 ml | C(=O)O.O
product | N-benzyl-6′-(4-hydroxybenzyl)-8′-(naphthalen-1-ylmethyl)-4′,7′-dioxohexahydrospiro[cyclopropane-1,3′-pyrazino[1,2-a]pyrimidine]-1′(2′H)-carboxamide | 47 mg, 29% | C(C1=CC=CC=C1)NC(=O)N1C2N(C(C3(C1)CC3)=O)C(C(N(C2)CC2=CC=CC3=CC=CC=C23)=O)CC2=CC=C(C=C2)O | C35H34N4O4
